US08084607B2
4-Bromo-5,6-dihydro-2H-pyran-3-carbaldehyde
A mixture of DMF (10 mL) and chloroform (200 mL) at 5° C. was treated with PBr3 (10 mL), stirred at 25° C. for 40 minutes, treated with tetrahydropyran-4-one (5 g) in chloroform (50 mL) at 0° C., stirred at 25° C. for 18 hours, poured onto ice, treated with sodium bicarbonate, and extracted with diethyl ether. The extract was washed with saturated sodium bicarbonate and brine and dried (MgSO4), filtered and concentrated. The concentrate was flash chromatographed on silica gel with 10% ethyl acetate/hexanes.

reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | PBr3 | 10 mL | P(Br)(Br)Br | Br3P
reactant | tetrahydropyran-4-one | 5 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-5,6-dihydro-2H-pyran-3-carbaldehyde | BrC1=C(COCC1)C=O | C6H7BrO2
